US08309751B2
5-Ethyl-6-octyl-[1,2,4]triazolo[1,5-a]pyrimidin-7-ylamine
In a 2.5 l jacketed vessel fitted with condenser and water separator, 737 g of o-xylene was initially charged, and 39.5 g of chlorosulfonic acid was added. 191.2 g of 3-amino-1,2,4-triazole and 1254 g of a solution of 2-propionyldecanonitrile (37.7% by weight in o-xylene) were added, and the mixture was heated to reflux. The mixture was stirred under reflux for 12 hours, and the water of reaction formed was removed via a phase separator. Once no more water was separated off, the mixture was cooled to 140° C. and 59.4 g of triethylamine were added. On further cooling, the product precipitated in the form of colorless crystals. At a temperature 105° C., 152.8 g of methanol were added. The mixture was cooled further to 20° C., and the solid formed was separated off. The filtercake was washed with a mixture of 850 g of methanol and 119 g of water and then dried under reduced pressure. This gave 525.5 g of colorless crystals having a content of 98.3% a/a (HPLC). The title compound was obtained as a mixture of two modifications having melting points of 199° C. and 201° C., respectively. Yield: 83.0%.

reactant | chlorosulfonic acid | 39.5 g | ClS(=O)(=O)O | ClHO3S
reactant | 3-amino-1,2,4-triazole | 191.2 g | NC1=NNC=N1 | C2H4N4
reactant | 2-propionyldecanonitrile | C(CC)(=O)C(C#N)CCCCCCCC | C13H23NO
solvent | water | O | H2O
solvent | o-xylene | 737 g | CC=1C=CC=CC1C | C8H10
product | 5-Ethyl-6-octyl-[1,2,4]triazolo[1,5-a]pyrimidin-7-ylamine | Yield: 83.0% | C(C)C1=NC=2N(C(=C1CCCCCCCC)N)N=CN2 | C15H25N5
